US04171374
Benzylamine (53.5 g.) is added during 30 minutes to a stirred suspension of phenyl chloroformate (78.3 g.) and anhydrous potassium carbonate (151.8 g.) in dioxan (500 ml.) and the mixture is stirred at laboratory temperature for 72 hours and then poured into water. The mixture is extracted with ethyl acetate and the extract is washed with water, dried over magnesium sulphate and evaporated to dryness. The residue is stirred with petroleum ether (b.p. 60°-80° C.) and the mixture is filtered. There is thus obtained as solid residue phenyl N-benzylcarbamate, which is used without further purification.

reactant | Benzylamine | 53.5 g | C(C1=CC=CC=C1)N | C7H9N
reactant | phenyl chloroformate | 78.3 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | potassium carbonate | 151.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dioxan | 500 ml | O1CCOCC1 | C4H8O2
product | phenyl N-benzylcarbamate | C(C1=CC=CC=C1)NC(OC1=CC=CC=C1)=O | C14H13NO2
